US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-1,3-thiazol-2-ylbenzamide
DIPEA (0.25 mL, 1.5 mmol) was added to a suspension of 3-[4-(azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid (243 mg, 0.5 mmol), HATU (248 mg, 0.65 mmol) and 2-amino-1,3 thiazole (150 mg, 1.5 mmol) in DMF (3 mL). The resulting mixture was stirred at RT for 16 hours, water (45 mL) was added and the mixture extracted with ethyl acetate. The extracts were combined, washed with brine, dried (MgSO4), filtered and evaporated in vacuo to give the crude product which was chromatographed on silica, eluting with 75% ethyl acetate in isohexane, to give the desired compound (284 mg).

reactant | DIPEA | 1.5 mmol, 0.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[4-(azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid | 0.5 mmol, 243 mg | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)O)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1 | C26H35NO6Si
reactant | HATU | 0.65 mmol, 248 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-amino-1,3 thiazole | 1.5 mmol, 150 mg | NC=1SC=CN1 | C3H4N2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 45 mL | O | H2O
product | 3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-1,3-thiazol-2-ylbenzamide | 284 mg | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)NC=3SC=CN3)C=C(C2)O[C@H](CO[Si](C)(C)C(C)(C)C)C)C=C1 | C29H37N3O5SSi
